US08030334B2
To a solution of 4-bromophenylhydrazine hydrochloride (11.5 g, 50 mmol) in anhydrous ethanol (200 mL) is added 3-acetylpyridine (6.1 g, 50 mmol). The mixture is heated to 90° C. and stirred for 3 h, cooled to room temperature and filtered through a sintered glass funnel. The solid is washed with ethanol and placed under high vacuum overnight to give N-(4-bromo-phenyl)-N′-[1-pyridin-3-yl-eth-(Z)-ylidene]-hydrazine hydrochloride as a yellow solid.

reactant | 4-bromophenylhydrazine hydrochloride | 50 mmol, 11.5 g | Cl.BrC1=CC=C(C=C1)NN
reactant | 3-acetylpyridine | 50 mmol, 6.1 g | C(C)(=O)C=1C=NC=CC1 | C7H7NO
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | N-(4-bromo-phenyl)-N′-[1-pyridin-3-yl-eth-(Z)-ylidene]-hydrazine hydrochloride | Cl.BrC1=CC=C(C=C1)N\N=C(\C)/C=1C=NC=CC1 | InChI=1S/C13H12BrN3.ClH/c1-10(11-3-2-8-15-9-11)16-17-13-6-4-12(14)5-7-13;/h2-9,17H,1H3;1H/b16-10-;
